US08871758B2
2-(4-Fluorophenyl)-2-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)ethanesulfonamide
50 mg of N-(tert-Butyl)-2-amino-2-(4-fluorophenyl)ethanesulfonamide enantiomer 1 and 58 mg of 2-(2,6-difluorophenoxy)-5,5,6,6-tetramethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide were dissolved in 1 ml of dichloromethane, and the mixture was stirred at room temperature for 5 hours. The completeness of the conversion was checked by LCMS. Since no conversion had taken place yet, 60 μl of N,N-diisopropylethylamine were added and the mixture was stirred at room temperature overnight. The reaction solution was diluted with 20 ml of ethyl acetate and washed with 10 ml of 0.1 N hydrochloric acid and 10 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The residue was dissolved in 1 ml of trifluoroacetic acid and dissolved at room temperature for 20 hours. After the removal of the solvent under reduced pressure, the crude product was purified in a purification laboratory by means of preparative HPLC. After lyophilization of the product-containing fractions, the product (25.8 mg) was obtained with a molecular weight of 407.5 g/mol (C15H22FN3O5S); MS (ESI): m/e=408 (M+H+).

reactant | N-(tert-Butyl)-2-amino-2-(4-fluorophenyl)ethanesulfonamide | 50 mg | C(C)(C)(C)NS(=O)(=O)CC(C1=CC=C(C=C1)F)N | C12H19FN2O2S
reactant | 2-(2,6-difluorophenoxy)-5,5,6,6-tetramethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 58 mg | FC1=C(OC=2OC(C(S(N2)(=O)=O)(C)C)(C)C)C(=CC=C1)F | C13H15F2NO4S
reactant | N,N-diisopropylethylamine | 60 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Fluorophenyl)-2-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)ethanesulfonamide | 25.8 mg | FC1=CC=C(C=C1)C(CS(=O)(=O)N)NC=1OC(C(S(N1)(=O)=O)(C)C)(C)C | C15H22FN3O5S2
